US05677321
7-Acetyl-5-aminoindole
A solution of 7-acetyl-5-nitroindole (0.2 g, 1.2 mmol) and 10% Pd/C (30 mg) in 20 mL of MeOH was stirred at reflux for 1 h. The reaction mixture was filtered and concentrated in vacuo, yielding oil (0.17 g, >95%), which was characterized by NMR and subjected to the following reaction without further purification.

reactant | 7-acetyl-5-nitroindole | 1.2 mmol, 0.2 g | C(C)(=O)C=1C=C(C=C2C=CNC12)[N+](=O)[O-] | C10H8N2O3
solvent | MeOH | 20 mL | CO | CH4O
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | 7-Acetyl-5-aminoindole | 0.17 g, >95% | C(C)(=O)C=1C=C(C=C2C=CNC12)N | C10H10N2O
